US08563686B2
Step V: Synthesis of Boc-Ala-Ala-NH—(CH2)4—OH
To a vigorously stirring solution of Boc-(Ala)2-OH (0.9 gm, 3.46 mmol) and NMM (0.57 mL, 5.2 mmol) in THF (20 mL) cooled to −15° C. was added under N2 atmosphere ethyl chloroformate (ECF) (372 μL, 3.56 mmol) and stirred for 2 min. A solution of H2N(CH2)4OH (462 mg, 5.19 mmol) in THF (5 mL) was added to the mixture followed by NMM (950 μL, 8.65 mmol) and the mixture was warmed to r.t. and stirred until silica gel TLC indicated complete consumption of the starting acid (eluting solvent—MeOH:DCM—1:10, Rf—0.45) (˜8 h). The solvent was evaporated, and the residue was diluted with EtOAc and washed with brine, water, saturated solutions of citric acid and NaHCO3, and the organic layer was dried using NaHSO4, and the solvent was removed under vacuum to yield a residue which was purified using silica gel flash column chromatography—Hexanes:EtOAc—1:3; to give the desired product in 75% yield (858 mg) as a solid—m.p.—102-104° C.

reactant | Boc-(Ala)2-OH | 3.46 mmol, 0.9 gm | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)N[C@@H](C)C(=O)O | C11H20N2O5
reactant | NMM | 5.2 mmol, 0.57 mL | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 3.56 mmol, 372 μL | ClC(=O)OCC | C3H5ClO2
reactant | H2N(CH2)4OH | 5.19 mmol, 462 mg | NCCCCO | C4H11NO
reactant | NMM | 8.65 mmol, 950 μL | CN1CCOCC1 | C5H11NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Boc-Ala-Ala-NH—(CH2)4—OH | 75% yield | N([C@@H](C)C(=O)N[C@@H](C)C(=O)NCCCCO)C(=O)OC(C)(C)C | C15H29N3O5
